US08048884B2
Preparation 28: 1-Methyl-1H-pyrazole-4-sulfonic acid {2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-methyl-amide
Add triethylamine (3.403 mL, 24.414 mmol) to a stirring solution of {2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-methyl-amine hydrochloride salt (2.000 g, 6.103 mmol) in dichloromethane (100 mL). Add 1-methyl-1H-pyrazole-4-sulfonyl chloride (1.102 g, 6.103 mmol) at room temperature. Stir at room temperature for 30 min. Dilute with dichloromethane and saturated aqueous sodium bicarbonate. Separate phases and extract the aqueous phase with dichloromethane. Combine the organic phases, dry over sodium sulfate, filter, and concentrate. Purify the resulting material by silica gel chromatography eluting with hexanes:acetone 1:1 to afford the title preparation (1.600 g, 66% yield). MS ES: m/z=399 [M+H]+.

reactant | triethylamine | 24.414 mmol, 3.403 mL | C(C)N(CC)CC | C6H15N
reactant | {2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-methyl-amine hydrochloride salt | 6.103 mmol, 2.000 g | Cl.ClC1=NC=CC=C1N1CCN(CC1)CCNC
reactant | 1-methyl-1H-pyrazole-4-sulfonyl chloride | 6.103 mmol, 1.102 g | CN1N=CC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-Methyl-1H-pyrazole-4-sulfonic acid {2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-methyl-amide | 66% yield | ClC1=NC=CC=C1N1CCN(CC1)CCN(S(=O)(=O)C=1C=NN(C1)C)C | C16H23ClN6O2S
